US06436923B1
E. 6-Methoxy-2-(methylethyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline
A mixture of 6-methoxy-2-(methylethyl)-1-(4-hydroxybenzyl)-1,2,3,4-tetrahydroisoquinoline (0.212 g, 0.68 mmol), 2-chloroethylpiperidine hydrochloride (0.25 g, 1.36 mmol), and potassium carbonate (0.47 g, 3.4 mmol) in dimethylformamide (10 mL) was heated at 80° C. overnight. After cooling to room temperature, the mixture was poured into water and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 0-15% methanol/CH2Cl2) to provide the title compound (0.201 g, 70% yield): ES-MS (m/z) 423 [M+H]+.

reactant | 6-methoxy-2-(methylethyl)-1-(4-hydroxybenzyl)-1,2,3,4-tetrahydroisoquinoline | 0.68 mmol, 0.212 g | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)O)C(C)C | C20H25NO2
reactant | 2-chloroethylpiperidine hydrochloride | 1.36 mmol, 0.25 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 3.4 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Methoxy-2-(methylethyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinoline | 0.201 g, 70% yield | COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCCC1NCCCC1)C(C)C | C27H38N2O2
